Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][O:8][C:9][H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]2[O:8][C@:9]12[H:10],-1.33235537891
[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.84110635693
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.7464076623
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8][H:9]>>[C:1]=[C:2]([H:3])[O:5][C:6][O:7][C:8][H:9].[H:4],2.18455573011
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.70622654796
[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.22021037128
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[O:7][H:8],1.13857010895
[C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-3.4480705029800003
[C:1]#[C:2][C:3]([C:4]([H:5])=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]#[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.87604548541
[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-1.5118084807299998
[H:1].[O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.59504029621
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:4],3.71689844148
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-7.2947423758
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.99335928166
[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3](=[C:4]\[O:5][H:6])[C:11]([H:12])([H:13])[H:14],4.37423649589
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6][O:7][H:8])=[C:9]([H:10])[H:11],1.57524525095
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.0092058767900003
[H:1][C:2]#[C:3][C:4][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.3851340324
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],3.50281305185
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],2.13572459491
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.63178727458
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:8][H:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9],-2.07599069889
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.84589484251
[H:14].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.970560287930001
[C:1]#[C:2][O:3][C:4]#[C:6][O:7][H:8].[H:5]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-3.0479634622400003
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.68419265846
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:5].[O:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[H:9],2.9919237567400003
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],5.2581346380900005
[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:12]([O:11][O:10])([H:13])[H:14],2.65648091
